US07348332B2
a) 2-Aminomethyl-6-methyl-phenylamine
Under an atmosphere of argon, a solution 2-amino-3-methylbenzamide (1.2 g, 80 mmol) in THF (25 ml) was added to a suspension of LiAlH4 (1.52 g, 40 mmol) in THF (25 ml) over 20 min. The suspension was heated to reflux (4 h). For workup, the mixture was cooled to 0° C., and 1.5 ml H2O, 3 ml 4n NaOH, and 3 ml H2O were added subsequently. The suspension was dried (Na2SO4), and evaporated under reduced pressure. The title compound (338 mg, 31%) was isolated from the residue by chromatographic purification (silica gel, CH2Cl2/MeOH (2M NH3)=9:1).

reactant | 2-amino-3-methylbenzamide | 80 mmol, 1.2 g | NC1=C(C(=O)N)C=CC=C1C | C8H10N2O
reactant | LiAlH4 | 40 mmol, 1.52 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | H2O | 1.5 ml | O | H2O
reactant | NaOH | [OH-].[Na+]
reactant | H2O | 3 ml | O | H2O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 2-Aminomethyl-6-methyl-phenylamine | 338 mg, 31% | NCC1=C(C(=CC=C1)C)N | C8H12N2
